US05696123
2.3 g (60 mmol) of Lithium aluminium hydride are suspended in 100 ml of ether under a nitrogen atmosphere and cooled to about -10° C. 1.6 ml (30 mmol) of conc. sulphuric acid are carefully added dropwise thereto, with further cooling, and the resulting mixture is stirred for 1.5 hours at about -5° C. Then a solution of 9.2 g (30 mmol) of (2-methoxyphenyl)-(4-phenylpiperazine-1-yl)-acetonitrile in 50 ml of tetrahydrofuran is slowly added dropwise. The mixture is allowed to come up to ambient temperature and is then refluxed for about 10 minutes. It is then allowed to cool and stirred overnight at ambient temperature. A mixture of 8 ml of tetrahydrofuran and 8 ml of water is then added, initially very carefully, to the grey suspension, whilst cooling with ice, and then 165 ml of 2N hydrochloric acid are added. The reaction mixture is then washed twice with 70 ml of ether and the ethereal phases are discarded. 18.2 g of Seignette salt and 45 ml of conc. sodium hydroxide solution are then added. The mixture is extracted four times with 70 ml of ether, the combined organic phases are dried over sodium sulfate and the solvent is eliminated in vacuo. 8.6 g of 2-(2-methoxyphenyl)-(4-phenylpiperazine-1-yl)-ethylamine are obtained (92% yield) as a yellowish oil. There is no additional purification before the further reactions.

reactant | Lithium aluminium hydride | 60 mmol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulphuric acid | 30 mmol, 1.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | (2-methoxyphenyl)-(4-phenylpiperazine-1-yl)-acetonitrile | 30 mmol, 9.2 g | COC1=C(C=CC=C1)C(C#N)N1CCN(CC1)C1=CC=CC=C1 | C19H21N3O
reactant | hydrochloric acid | 2N, 165 ml | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | 2-(2-methoxyphenyl)-(4-phenylpiperazine-1-yl)-ethylamine | 8.6 g, 92% yield | COC1=C(C=CC=C1)CCNN1CCN(CC1)C1=CC=CC=C1 | C19H25N3O
